US04801609
Step 1: N-(3-Acetylthio-2-Benzylpropionyl)-S-(4-Methoxybenzyl)-L-Cysteine Methyl Ester (Isomers A and B):
React S-(4-methoxybenzyl)-L-cysteine methyl ester hydrochloride (1.85 g) and 3-acetylthio-2-benzylpropionic acid (1.95 g) in the manner described in Example 1, Step 1 to give an amber oil. Chromatograph this oil on a column of silica gel (2L, 60-200 mesh) and elute with ethyl acetate:hexane 5:20 to give Isomer A, a clear oil (0.63 g), [α]D26 =-66.5° (MeOH), overlap Isomer A and Isomer B (0.28 g); and Isomer B, a clear oil (0.67 g), [α]D26 =+3.0° (MeOH).

reactant | S-(4-methoxybenzyl)-L-cysteine methyl ester hydrochloride | 1.85 g | Cl.COC([C@@H](N)CSCC1=CC=C(C=C1)OC)=O
reactant | 3-acetylthio-2-benzylpropionic acid | 1.95 g | C(C)(=O)SCC(C(=O)O)CC1=CC=CC=C1 | C12H14O3S
solvent | MeOH | CO | CH4O
product | N-(3-Acetylthio-2-Benzylpropionyl)-S-(4-Methoxybenzyl)-L-Cysteine Methyl Ester | COC([C@@H](NC(C(CSC(C)=O)CC1=CC=CC=C1)=O)CSCC1=CC=C(C=C1)OC)=O | C24H29NO5S2
